Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Iodine; Iodine Containing
 
Attending: ___.
 
Chief Complaint:
NSTEMI
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization (diagnostic)
Tooth extraction (#11)

 
History of Present Illness:
Mr. ___ is a ___ y/o male with a h/o rheumatic heart disase, 
severe AS, HTN, and hyperlipidemia who presented initially to an 
OSH ED with severe SOB and was then transferred to the ___ ED 
when there was a concern for possible STEMI. Of note, the pt 
recently had left carotid stenting on ___. Post-procedure, 
he was instructed to keep his BP 110-170, taking Sudafed at home 
if his BP decreased. About ___ days after his procedure, he 
noted increasing SOB and DOE. He denied any CP. He presented to 
___ with the above complaints. He was started on a nitro 
gtt and given combivent nebs, Lasix 80 IV x 1, solumedrol 125 mg 
IV x 1, ativan 1 mg IV x 1, morphine 4 mg IV x 1, ASA 325 mg PO, 
and Lopressor 5 mg IV x 1. Because of his respiratory distress, 
he was placed on BiPAP ___. A non-contrast CT scan was 
performed to r/o aortic dissection. It revealed moderate B/L 
pleural effusions. She was then transferred to the ___ ED for 
further evaluation.  

OSH vitals on presentation: BP 146/80 HR 80 RR 16 100% on BiPap. 
Question of STE on EKG, CPK 521, Troponin 23.4, BNP 1328, and 
WBC 21. At the ___ ED, he was started on a heparin gtt. Vitals 
on presentation were T 98.5 HR 76 BP 112/69 RR 12 92% 4LNC.  

Of note, after his carotid stenting procedure, he developed a 
new rash on his trunk. He was treated with prednisone, thought 
to be ___ to dye allergy.  

 
Past Medical History:
Severe AS
Rheumatic heart disease
HTN
Hyperlipidemia
CRI, unknown baseline
Stroke/TIA x 2
Clean cath at ___ in ___
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
General Appearance: Well nourished, No acute distress

Eyes / Conjunctiva: PERRL

Head, Ears, Nose, Throat: Normocephalic

Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), 
(Murmur: Systolic), SEM, best heart RUSB, radiating to the 
carotids

Peripheral Vascular: (Right radial pulse: Present), (Left radial 
pulse: Present), (Right DP pulse: Present), (Left DP pulse: 
Present)

Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: 
Crackles : ___ up lung fields, No(t) Wheezes : )

Abdominal: Soft, Non-tender, Bowel sounds present, Distended, 
No(t) Tender: 

Extremities: Right: 1+, Left: 2+

Skin:  Not assessed, Rash: on trunk, maculopapular

Neurologic: Attentive, A/O x 3. CNs II-XII grossly intact. 
Sensation intact. Good ROM and strength in all 4 extremities.

 
Pertinent Results:
___ 05:33PM   CK(CPK)-241*
___ 05:33PM   CK-MB-22* MB INDX-9.1* cTropnT-1.59*
___ 05:33PM   GLUCOSE-145* UREA N-53* CREAT-1.9* SODIUM-139 
POTASSIUM-3.6 CHLORIDE-99 TOTAL CO2-27 ANION GAP-17
___ 09:13AM   WBC-10.9 RBC-3.43* HGB-10.5* HCT-29.4* MCV-86 
MCH-30.5 MCHC-35.6* RDW-15.1
___ 01:14AM   CK(CPK)-452*
___ 01:14AM   CK-MB-41* MB INDX-9.1*
___ 01:14AM   cTropnT-1.91*

CATH ___:
1. Three vessel coronary artery disease. 
2. Moderate-to-severe aortic stenosis. 
3. Marked elevation of biventricular filling pressures. 

ECHO ___: 
Suboptimal image quality. LV wall thicknesses are normal. 
Regional LV systolic dysfunction consistent with coronary artery 
disease. Diastolic dysfunction. There is aortic stenosis which 
is at least moderate and may be severe (valve not well seen and 
Doppler interrogation only possible from suprasternal view). The 
mitral valve is not well seen but does not appear to be 
rheumatic, there is no mitral stenosis. Moderate pulmonary 
artery systolic hypertension.  

CXR ___:
1. Bilateral atelectasis and retrocardiac opacities, for which 
repeat PA and lateral were recommended if there is concern for 
aspiration or pneumonia. 
2. Pulmonary edema. 

CXR PA/LAT ___:
1. Small left pleural effusion. 
2. No pneumonia. No CHF. 

VENOUS MAPPING ___:
Patent bilateral greater saphenous veins with very large 
diameters on the right and small diameters on the left. 

PANOREX: no official read

 
Brief Hospital Course:
___ y/o male with a h/o rheumatic heart disase, severe AS, HTN, 
and hyperlipidemia who presented with worsening SOB, determined 
to have a NSTEMI and left sided heart failure.

NSTEMI/left-sided heart failure - Pt presented to OSH with 
worsening SOB, without CP, and responded fairly wellthought to 
have had plaque rupture, resulting in ischemia and diastolic 
dysfunction, and in the setting of fixed AS developed pulmonary 
edema. Pt was medically managed with Aspirin 325mg, plavix 75mg, 
lipitor 80mg and heparin drip. Beta-blocker was initially held.

Pt underwent cardiac catheterization which showed: 1. Three 
vessel coronary artery disease. 2. Moderate-to-severe aortic 
stenosis. 3. Marked elevation of biventricular filling 
pressures.  Based on these findings, recommendation was made to 
undergo CABG with AVR once recovered from recent carotid stents. 
Pt agreed and underwent screening by CT surg as well as multiple 
pre-op studies and dental work (removal of two teeth). Cardiac 
enzymes continued to trend down and pt was discharged home to 
continue course of plavix, to be stopped 4 days prior to 
surgery. 

HYPERTENSION - Initially held beta-blocker and ACE-inhibitor and 
restarted once renal function improved and CHF better 
controlled. 

HYPERLIPIDEMIA - Pt switched to Lipitor 80 mg in the acute 
setting (on Zocor as outpatient).
 
S/P LEFT CAROTID STENT - Pt had history of stroke/TIA, but had 
persistently normal neuro exams throughout the admission. 

 
Medications on Admission:
Plavix 75 mg PO daily
ASA 325 mg PO daily
Atenolol-Chlorthalidone 100/25 mg PO daily
Lisinopril 10 mg PO daily
Allopurinol unknown dose
Zocor 10 mg PO daily
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Furosemide 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).
Disp:*15 Tablet(s)* Refills:*2*
5. Allopurinol ___ mg Tablet Sig: Two (2) Tablet PO once a day.  

6. Toprol XL 100 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
7. Outpatient Lab Work
Serum creatinine, urine analysis and urine culture to be done on 
___ at ___.  The results need to be sent to 
your Cardiac surgeon.
8. Amoxicillin 500 mg Tablet Sig: One (1) Tablet PO twice a day 
for 7 days.
Disp:*13 Tablet(s)* Refills:*0*
9. Lisinopril 2.5 mg Tablet Sig: One (1) Tablet PO once a day:  
.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Non ST Elevation Myocardial Infarction

Secondary:
Systolic Congestive Heart Failure, EF 40-45%
Hypertension
Urinary Tract Infection
Hyperlipidemia
Coronary Artery Disease
Acute Renal Failure
Aortic Stenosis

 
Discharge Condition:
BUN=43
Creat=1.6
Hct=30.4
WBC=7.0
BP=116/67
HR=89
Otherwise stable, ambulating, and pain free.  Six hours after 
receiving Amoxacillin, no wheezing, rashes, fever or other 
symptoms.

 
Discharge Instructions:
You had a heart attack and some fluid accumulated in your lungs 
because your heart was not working well. You had a cardiac 
catheterization which showed severe aortic stenosis (a stiff 
arotic valve in your heart) and blockages in 3 of your arteries 
that feed blood to your heart. You will need surgery to bypass 
these arteries and fix your aortic valve. A tooth was pulled in 
preperation for the surgery. You had evidence of bacteria in 
your urine that needs treatment.  You should complete a 7 day 
course of amoxacillin for this.  You will need to get repeat 
urine studies, as well as repeat blood work done on ___.  The 
results should be sent to your cardiac surgeon.  Otherwise, your 
pre-operative work up is complete.
You should stop taking plavix on ___, as well as get repeat 
labs, in preparation for your surgery on ___. 
New Medicines:
1. Atorvastatin is taking the place of Pravastatin
2. Furosemide and Toprol is taking the place of 
Atenolol/Chlorthalidone.
3. You have been restarted on Plavix and should continue to take 
this until ___.
4. Your dose of lisinopril is lower (2.5 mg from 10 mg).
.
Please call Dr. ___ you have any chest pain or pressure, 
trouble breathing, nausea, sweating or any other unusual 
symptoms. 

 
Followup Instructions:
___